US07943658B2
(R)—N-(6-Cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-nitro-1H-indole-2-carboxamide
A mixture of 5-nitro-1H-indole-2-carboxylic acid (144 mg, 0.698 mmol), (R)-3-amino-2,2-dimethyl-2,3-dihydro-1H-indene-5-carbonitrile (110 mg, 0.591 mmol), BOP reagent (401 mg, 0.907 mmol), N-methylmorpholine (0.30 mL, 2.73 mmol) in DMF (2 mL) was stirred at rt for 16 hr. To the mixture was added 5% NaHCO3 solution (35 mL) and the resulting mixture was stirred at rt for 15 min. The precipitating title product (250 mg) was collected as a beige solid by suction filtration and dried over Drierite® under vacuum. LCMS (M+H)+=375.25. 1H NMR (500 MHz, DMSO-d6) δ: 8.84 (d, J=9.3 Hz, 1H), 8.69 (s, 1H), 8.07 (d, J=8.8 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.66 (s, 1H), 7.59 (d, J=11.0 Hz, 1H), 7.58 (s, 1H), 7.46 (d, J=7.7 Hz, 1H), 5.39 (d, J=9.3 Hz, 1H), 2.87 (dd, J=20.9, 16.5 Hz, 2H), 1.22 (s, 3H), 0.95 (s, 3H).

reactant | 5-nitro-1H-indole-2-carboxylic acid | 0.698 mmol, 144 mg | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | (R)-3-amino-2,2-dimethyl-2,3-dihydro-1H-indene-5-carbonitrile | 0.591 mmol, 110 mg | N[C@@H]1C(CC2=CC=C(C=C12)C#N)(C)C | C12H14N2
reactant | BOP reagent | 0.907 mmol, 401 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 2.73 mmol, 0.30 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 35 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6-Cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-nitro-1H-indole-2-carboxamide | C(#N)C1=CC=C2CC([C@H](C2=C1)NC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-])(C)C | C21H18N4O3
